US07101876B2
Ethyl 3-[(4-{3-[(2-pyridinyl)amino]propyl}-3-oxo-3,4-dihydro-2H-1,4-benzoxazin-7-yl)]-3-phenylbutanoate, 29
To a solution of titanium (IV) chloride in tetrahydrofuran under nitrogen atmosphere, is added an equimolar amount of stannous chloride dihydrate, and the mixture is stirred 1 hour at room temperature. Then, a solution of ethyl 3-[(4-{3-[N-benzyloxycarbonyl-N-(1-oxido-2-pyridinyl)amino]propyl}-3-oxo-3,4-dihydro-2H-1,4-benzoxazin-7-yl)]-3-phenylbutanoate is added and the mixture heated 3 hours at 40° C. After evaporation of the solvent, ice and aqueous sodium bicarbonate are added, the mixture extracted with ethyl acetate, and the organic layers are combined and dried over sodium sulfate. The solvent is evaporated, the residue is dissolved in ethanol, 10% Pd/C is added and the compound hydrogenated in a Parr apparatus. The solvent is then evaporated and the product is isolated by column chromatography.

reactant | ethyl 3-[(4-{3-[N-benzyloxycarbonyl-N-(1-oxido-2-pyridinyl)amino]propyl}-3-oxo-3,4-dihydro-2H-1,4-benzoxazin-7-yl)]-3-phenylbutanoate | C(C1=CC=CC=C1)OC(=O)N(C1=[N+](C=CC=C1)[O-])CCCN1C(COC2=C1C=CC(=C2)C(CC(=O)OCC)(C)C2=CC=CC=C2)=O | C36H37N3O7
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | titanium (IV) chloride | [Ti](Cl)(Cl)(Cl)Cl
product | Ethyl 3-[(4-{3-[(2-pyridinyl)amino]propyl}-3-oxo-3,4-dihydro-2H-1,4-benzoxazin-7-yl)]-3-phenylbutanoate | N1=C(C=CC=C1)NCCCN1C(COC2=C1C=CC(=C2)C(CC(=O)OCC)(C)C2=CC=CC=C2)=O | C28H31N3O4
